US05310898
N,N'-diisopropylethylenediammonium diclavulanate (10 g, clavulanic acid content 69%) was dissolved in water (10 ml), the solution was diluted with isopropanol (190 ml) and a solution (15 ml, 2M) of potassium 2-ethylhexanoate in isopropanol was added within 15 min. with stirring. The obtained suspension was stirred for another 30 min. whereat a precipitate separated, which was filtered off, washed with isopropanol and then dried. Thus there was obtained potassium clavulanate (4.8 g; 70%), (USP Grade, clavulanic acid content 81% as determined by the HPLC method).

reactant | N,N'-diisopropylethylenediammonium | C(C)(C)[NH2+]CC[NH2+]C(C)C
reactant | clavulanic acid | C1[C@@H]2N(C1=O)[C@H](/C(=C/CO)/O2)C(=O)O | C8H9NO5
reactant | potassium 2-ethylhexanoate | 2M, 15 ml | C(C)C(C(=O)[O-])CCCC.[K+]
solvent | water | 10 ml | O | H2O
solvent | isopropanol | 190 ml | C(C)(C)O | C3H8O
product | potassium clavulanate | 4.8 g, 70% | C1[C@@H]2N(C1=O)[C@H](/C(=C/CO)/O2)C(=O)[O-].[K+] | InChI=1S/C8H9NO5.K/c10-2-1-4-7(8(12)13)9-5(11)3-6(9)14-4;/h1,6-7,10H,2-3H2,(H,12,13);/q;+1/p-1/b4-1-;/t6-,7-;/m1./s1
